US07087601B2
To a stirred solution of 5-methylbenzoxazole (173 mg, 1.3 mmol) in THP (5 mL) at −78° C. was added n-Butyllithium (640 μL, 2.5M in hexanes, 1.6 mmol). The reaction mixture was stirred for 15 min at −78° C. followed by the addition of ZnCl2 (3.9 mL, 1M in Et2O, 3.9 mmol) via a syringe. The reaction mixture was warmed at 0° C. for 1 h and a solution of 4-bromo-2-fluoro benzyl cyanide (214 mg, 1.0 mmol) in THF (2 mL) was added, along with Pd0 (a fresh suspension prepared as follows: 200 μL n-Butyllithium, 2.5M in hexanes added to 144 mg PdCl2(PPh3)2 in 5 mL of THF). The mixture was refluxed overnight and quenched with sat. NaHCO3 (50 mL). After extraction with EtOAc (3×75 mL), the organic layers were combined, washed with brine (50 mL), dried (MgSO4), and concentrated in vacuo. The residue was purified by chromatography on silica gel using a mixture of hexanes:EtOAc (5:1) to afford the desired [2-fluoro-4-(5-methyl-1,3-benzoxazol-2-yl)phenyl]acetonitrile as yellow solid. 1H NMR (CD3OD, 300 MHz), δ 8.07 (d, 1H), 7.95 (d, 1H), 7.64 (m, 2H), 7.40 (s, 1H), 7.20 (d, 1H), 3.90 (s, 1H). MS (ESI) 267 (M+H)+.

reactant | 5-methylbenzoxazole | 1.3 mmol, 173 mg | CC=1C=CC2=C(N=CO2)C1 | C8H7NO
reactant | n-Butyllithium | 1.6 mmol, 2.5M, 640 μL | C(CCC)[Li]
reactant | 4-bromo-2-fluoro benzyl cyanide | 1.0 mmol, 214 mg | BrC1=CC(=C(CC#N)C=C1)F | C8H5BrFN
reactant | n-Butyllithium | 200 μL | C(CCC)[Li]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 3.9 mmol, 1M, 3.9 mL | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(PPh3)2 | 144 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [2-fluoro-4-(5-methyl-1,3-benzoxazol-2-yl)phenyl]acetonitrile | FC1=C(C=CC(=C1)C=1OC2=C(N1)C=C(C=C2)C)CC#N | C16H11FN2O
